US04238617
In Example 6, Example 5 was repeated except that the butylamine-HCN mixture was not heated so as to avoid polymerizing the hydrogen cyanide. An NMR spectrum of this mixture gave no evidence of butylformamidine formation but rather was consistent with a simple solution of butylammonium cyanide in butylamine. Hydrazine was added and the reaction mixture was heated to 75° C. to give a 63% yield of 4-n-butyl-1,2,4-triazole in only four hours. The only differences between this experiment and Examples 3 and 4 were the order of the HCN--H2NNH2 additions and the amount of NH4Cl catalyst used; the former seems to have had no discernible effect while the latter is presumably responsible for the significant rate increase.

reactant | butylammonium cyanide | [C-]#N.C(CCC)[NH3+]
reactant | Hydrazine | NN | H4N2
reactant | butylamine | C(CCC)N | C4H11N
product | 4-n-butyl-1,2,4-triazole | 63% yield | C(CCC)N1C=NN=C1 | C6H11N3
